US07687491B2
(1b) 5-({[t-Butyl(dimethyl)silyl]oxy}methyl)-3-furaldehyde
To a solution of [(4-bromo-2-furyl)methoxy](t-butyl)dimethylsilane (7.3 g, 25 mmol) that was obtained in Example 1 (1a) in tetrahydrofuran (50 ml) was slowly added dropwise n-butyllithium (a 1.6 M solution in hexane, 17 ml, 28 mmol) at −78° C. with stirring, and the resulting mixture was stirred for 5 minutes. Subsequently, to the reaction mixture was furthermore added N,N-dimethylformamide (3.8 ml, 50 mmol) at the same temperature with stirring, and the resulting mixture was stirred for 45 minutes. After stirring, a saturated aqueous solution of ammonium chloride (10 ml) was added to the reaction mixture to quench the reaction, and the resulting mixture was poured into water (100 ml) and extracted with ether. The extract was washed with a saturated aqueous solution of sodium chloride and dried over magnesium sulfate. After filtration, the filtrate was evaporated in vacuo, and the crude product of the title compound thus obtained was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (1:49 to 1:19) as the eluent to afford the title compound (3.3 g) in a yield of 55% as a colourless oily product.

reactant | [(4-bromo-2-furyl)methoxy](t-butyl)dimethylsilane | 25 mmol, 7.3 g | BrC=1C=C(OC1)CO[Si](C)(C)C(C)(C)C | C11H19BrO2Si
reactant | n-butyllithium | C(CCC)[Li]
reactant | N,N-dimethylformamide | 50 mmol, 3.8 ml | CN(C=O)C | C3H7NO
reactant | ammonium chloride | 10 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | water | 100 ml | O | H2O
product | 5-({[t-Butyl(dimethyl)silyl]oxy}methyl)-3-furaldehyde | yield of 55% | [Si](C)(C)(C(C)(C)C)OCC1=CC(=CO1)C=O | C12H20O3Si
